US07129238B2
(RS)-4-[3-(Carboxy-methoxy-methyl)-5-ethoxy-2-fluoro-phenoxy]-piperidine-1-carboxylic acid tert-butyl ester was coupled with 4-aminomethyl benzonitrile to give (RS)-4-{3-[(4-cyano-benzylcarbamoyl)-methoxy-methyl]-5-ethoxy-2-fluoro-phenoxy}-piperidine-1-carboxylic acid tert-butyl ester according to general procedure B. Yellow oil. MS 564.4 ([M+Na]+)

reactant | (RS)-4-[3-(Carboxy-methoxy-methyl)-5-ethoxy-2-fluoro-phenoxy]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=CC(=C1)OCC)C(OC)C(=O)O)F | C21H30FNO7
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
product | (RS)-4-{3-[(4-cyano-benzylcarbamoyl)-methoxy-methyl]-5-ethoxy-2-fluoro-phenoxy}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=CC(=C1)OCC)C(OC)C(NCC1=CC=C(C=C1)C#N)=O)F | C29H36FN3O6
